US04185992
2-Amino-3-(3,4-dichlorobenzylamino)maleonitrile (10.7 g) was heated on a steam bath in a mixture of ethanol (4 ml) and triethylorthoformate (12 g) containing concentrated sulphuric acid (0.02 ml) for 1 hour. The solution was evaporated to dryness to give a semi-solid, which was crystallised from ethanol (50 ml) to give 1-(3,4-dichlorobenzyl)-4,5-dicyanoimidazole (3.0 g), m.p. 131°-132.5° C., as pale yellow crystals.

reactant | 2-Amino-3-(3,4-dichlorobenzylamino)maleonitrile | 10.7 g | N/C(/C#N)=C(/C#N)\NCC1=CC(=C(C=C1)Cl)Cl | C11H8Cl2N4
reactant | sulphuric acid | 0.02 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | triethylorthoformate | 12 g | C(C)OC(OCC)OCC | C7H16O3
product | 1-(3,4-dichlorobenzyl)-4,5-dicyanoimidazole | 3.0 g | ClC=1C=C(CN2C=NC(=C2C#N)C#N)C=CC1Cl | C12H6Cl2N4
